US09326973B2
To a solution of 2-methyl-2-(4-oxocyclohexyl)propanoic acid (0.184 g, 1 mmol) and DIPEA (0.192 mL, 1.100 mmol) in acetonitrile (1 mL) and CHCl3 (1 mL) was added benzyl bromide (0.131 mL, 1.100 mmol) and the mixture was stirred at rt overnight. The reaction mixture was evaporated to dryness and purified by silica gel FCC (0-5% EtOAC in DCM) to afford benzyl 2-methyl-2-(4-oxocyclohexyl)propanoate as a clear oil (184 mg), which was dissolved in CH2Cl2 (2 mL) was treated with Deoxo-Fluor® (0.442 mL, 2.40 mmol), followed by the addition of EtOH (5.8 mL). The resulting yellowish solution was stirred at rt overnight. The reaction mixture was diluted with sat. NaHCO3 and EtOAc. The organic phase was separated and washed with water, sat. NaCl, dried over anhydrous MgSO4, filtered and dried to yield a yellow oil. The crude product was purified by silica gel FCC (1:1 hexane-DCM) to afford benzyl 2-(4,4-difluorocyclohexyl)-2-methylpropanoate as a clear oil (143 mg) which was hydrogenated (0.053 g of 10% Pd—C, EtOAc) under balloon pressure for 4 h. The suspension was filtered and evaporated to dryness to afford Cap P-21. 1H NMR (500 MHz, CDCl3) δ ppm 2.08-2.23 (2H, m), 1.64-1.85 (5H, m), 1.36-1.54 (2H, m), 1.12-1.29 (6H, m).

reactant | 2-methyl-2-(4-oxocyclohexyl)propanoic acid | 1 mmol, 0.184 g | CC(C(=O)O)(C)C1CCC(CC1)=O | C10H16O3
reactant | DIPEA | 1.100 mmol, 0.192 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl bromide | 1.100 mmol, 0.131 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | benzyl 2-methyl-2-(4-oxocyclohexyl)propanoate | 184 mg | CC(C(=O)OCC1=CC=CC=C1)(C)C1CCC(CC1)=O | C17H22O3
